US05292732
Molecular sieve 4 Å and 14.9 g of N-acetylethylenediamine (200 g) was added in succession under argon to a solution of 27.5 g of 1,2,3,4-tetrahydro-1-oxo-2-naphthaleneacetaldehyde in 275 ml of diethyl ether. The reaction mixture was stirred at boiling temperature for 5 hours and subsequently cooled. The molecular sieve was filtered off, the filtrate was freed from solvent and the crude product was chromatographed on 600 g of silica gel with ethyl acetate as the eluent. There were obtained 23.5 g (79%) of N-[2-(4,5-dihydro-1H-benzo[g]indol-1-yl)ethyl]-acetamide with a melting point of 95°-96° C. (ethyl acetate).

reactant | N-acetylethylenediamine | 14.9 g | C(C)(=O)NCCN | C4H10N2O
reactant | 1,2,3,4-tetrahydro-1-oxo-2-naphthaleneacetaldehyde | 27.5 g | O=C1C(CCC2=CC=CC=C12)CC=O | C12H12O2
solvent | diethyl ether | 275 ml | C(C)OCC | C4H10O
product | N-[2-(4,5-dihydro-1H-benzo[g]indol-1-yl)ethyl]-acetamide | 23.5 g, 79% | N1(C=CC=2CCC3=C(C12)C=CC=C3)CCNC(C)=O | C16H18N2O
